US07393868B2
Dissolve 1-(4-Bromo-phenyl)5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid ethyl ester (2.549 g, 6.12 mmol) in ethanol (10 mL)(denatured with methanol) and then add an aqueous solution of sodium hydroxide (12.5 mL, 2.0M). Immerse the resulting mixture into a pre-heated oil bath (65° C.) and stir overnight. Upon completion, concentrate to remove ethanol/methanol, wash the resulting aqueous mixture with dichloromethane, and concentrate to remove any trace of dichloromethane. Cool the aqueous mixture to 0° C., add 1.0 HCl until pH 4 is achieved (extensive precipitation of acid may be observed), and stir for 15 min. Filter the mixture under reduced pressure. Allow the reduced pressure to cool the filtrate, and filter a second crop of product. Combine the two crops to yield 1-(4-Bromo-phenyl)-5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid (2.031 g, 85%).

reactant | 1-(4-Bromo-phenyl)5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid ethyl ester | 6.12 mmol, 2.549 g | C(C)OC(=O)C=1C=NN(C1NS(=O)(=O)C(C)C)C1=CC=C(C=C1)Br | C15H18BrN3O4S
reactant | sodium hydroxide | 2.0M, 12.5 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(4-Bromo-phenyl)-5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid | 2.031 g, 85% | BrC1=CC=C(C=C1)N1N=CC(=C1NS(=O)(=O)C(C)C)C(=O)O | C13H14BrN3O4S
